US08293735B2
(R)-8-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrazino[1,2-a]pyrazine-1,4-dione
Prepared according to the method used in the preparation of 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3,3-dimethyl-piperazin-2-one using (R)-hexahydro-pyrazino[1,2-a]pyrazine-1,4-dione in place of 3,3-dimethyl-piperazin-2-one. The title compound was obtained as a cream solid (23 mg, 29%).

reactant | 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3,3-dimethyl-piperazin-2-one | ClC=1N=C(C2=C(N1)C=C(S2)CN2C(C(NCC2)=O)(C)C)N2CCOCC2 | C17H22ClN5O2S
reactant | (R)-hexahydro-pyrazino[1,2-a]pyrazine-1,4-dione | C1([C@@H]2N(C(CN1)=O)CCNC2)=O | C7H11N3O2
product | (R)-8-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrazino[1,2-a]pyrazine-1,4-dione | ClC=1N=C(C2=C(N1)C=C(S2)CN2C[C@H]1N(C(CNC1=O)=O)CC2)N2CCOCC2 | C18H21ClN6O3S
